US09388173B2
The mixture of compound (R)-8-(3-(oxiran-2-ylmethoxy)phenyl)quinoline (270 mg, 1 mmol), 1,2,3,4-tetrahydroisoquinoline (133 mg, 1 mmol) in EtOH (5 mL) was stirred at 120° C. under microwave heating for 30 min. The solvent was then removed by concentration and the crude product was purified by HPLC separation to yield the desired (R)-1-(3,4-dihydroisoquinolin-2(1H)-yl)-3-(3-(quinolin-8-yl)phenoxy)propan-2-ol (110 mg, Yield 26.8%). 1H NMR (400 MHz, METHANOL-d4): 8.82 (dd, J1=4.0 Hz, J2=1.6 Hz, 1H), 8.41 (d, J=8.0 Hz, 1H), 7.93 (d, J=8.0 Hz, 1H), 7.76 (d, J=7.2 Hz, 1H), 7.69 (dd, J1=J2=7.6 Hz, 1H), 7.56-7.53 (m, 1H), 7.43 (dd, J1=J2=7.6 Hz, 1H), 7.24 (s, 1H), 7.20-7.01 (m, 6H), 4.30 (br.s, 1H), 4.17-4.06 (m, 2H), 3.77 (s, 2H), 2.90-2.74 (m, 6H). LCMS (m/z): 412.2 (M+1).

reactant | (R)-8-(3-(oxiran-2-ylmethoxy)phenyl)quinoline | 1 mmol, 270 mg | O1[C@H](C1)COC=1C=C(C=CC1)C=1C=CC=C2C=CC=NC12 | C18H15NO2
reactant | 1,2,3,4-tetrahydroisoquinoline | 1 mmol, 133 mg | C1NCCC2=CC=CC=C12 | C9H11N
solvent | EtOH | 5 mL | CCO | C2H6O
product | (R)-1-(3,4-dihydroisoquinolin-2(1H)-yl)-3-(3-(quinolin-8-yl)phenoxy)propan-2-ol | 110 mg, Yield 26.8% | C1N(CCC2=CC=CC=C12)C[C@H](COC1=CC(=CC=C1)C=1C=CC=C2C=CC=NC12)O | C27H26N2O2
